US05346917
To a mixture of 3-chlorothiophenol (20 g, 0.138 mol), and cupric acetate (1.8 g) and DMF (200 mL) was added K2CO3 (23 g). The mixture was heated to 150° C. for 15-20 minutes, then 2-bromo-5-methoxybenzoic acid (35.8 g, 0.155 mol) was added in portions. The mixture was heated overnight, poured into water (600 mL), filtered and the filtrate was treated with charcoal, filtered and diluted with HCl. The resulting precipitate was collected by filtration, washed with water, and dried at 50° C. in vacuo over P2O5 to afford 27.6 g of 2-[(3-chlorophenyl)thio]-5-methoxybenzoic acid.

reactant | 3-chlorothiophenol | 0.138 mol, 20 g | ClC=1C=C(C=CC1)S | C6H5ClS
reactant | DMF | 200 mL | CN(C)C=O | C3H7NO
reactant | K2CO3 | 23 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 2-bromo-5-methoxybenzoic acid | 0.155 mol, 35.8 g | BrC1=C(C(=O)O)C=C(C=C1)OC | C8H7BrO3
solvent | water | 600 mL | O | H2O
product | 2-[(3-chlorophenyl)thio]-5-methoxybenzoic acid | 27.6 g | ClC=1C=C(C=CC1)SC1=C(C(=O)O)C=C(C=C1)OC | C14H11ClO3S
